US04632925
A flame-dried, 12-L flask equipped with a mechanical stirrer, thermometer, and dropping funnel was charged under argon with 252.5 g of 4-picoline and 2.50 L of tetrahydrofuran. The solution was cooled in an ice bath to below 20° and maintained at 15°-20° during the addition over 15 minutes, of 1.315 L of 1.85M phenyllithium in 70:30 cyclohexane:ether solution. The mixture was stirred at 15°-20° for 30 minutes and then cooled to -5°-0° in an acetone-ice bath. The temperature was maintained in this range during the rapid addition of a solution of 494.2 g of benzophenone in 1.50 L tetrahydrofuran. A bright blue color persisted after the addition of just a little of the benzophenone solution. The cooling bath was removed and the mixture was stirred at ambient temperature for 3 hours. To the flask was added 1.0 L of deionized water and 2.0 L of tetrahydrofuran. The mixture was warm gently on a steam bath to dissolve all the solids. The aqueous phase was separated and extracted with 2.0 L of tetrahydrofuran. The combined organic solutions were dried over sodium sulfate and stripped of solvent on a rotary evaporator at 45°. The resulting solid was triturated at reflux with 1.60 L of hexanes. The suspension was stored at 4° overnight and filtered. The solids were washed with a total of 1.0 L of boiling point 35°-60° petroleum ether and dried in a forced air oven at 75° to give 699.6 g (94% yield) of alpha,alpha-diphenyl-4-pyridineethanol as a pale-yellow solid, mp 154°-155°.

reactant | 4-picoline | 252.5 g | N1=CC=C(C=C1)C | C6H7N
reactant | phenyllithium | 1.85M, 1.315 L | C1(=CC=CC=C1)[Li]
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | benzophenone | 494.2 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | tetrahydrofuran | 1.50 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.50 L | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | alpha,alpha-diphenyl-4-pyridineethanol | 699.6 g, 94% yield | C1(=CC=CC=C1)C(CC1=CC=NC=C1)(O)C1=CC=CC=C1 | C19H17NO
